US07262212B2
A mixture of (2-methyl-2-oxiranylmethyl) toluene-4-sufonate (9.75 g, 40.3 mmol), tert-butyl piperazin-1-yl-carbamate (6.75 g, 33.5 mmol) prepared in Reference Example 36, triethylamine (7 ml, 50.3 mmol) and potassium iodide (6.68 g, 33.5 mmol) in DMF (70 ml) was stirred at room temperature overnight. The reaction mixture was poured into water, and extracted with ethyl acetate. The extract was washed with water and brine, dried over sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/acetone=4/1) to afford tert-butyl[4-(2-methyl-2-oxiranylmethyl)piperazin-1-yl]carbamate (4.66 g, yield 51%) as a colorless crystalline powder.

reactant | (2-methyl-2-oxiranylmethyl) toluene-4-sufonate | 40.3 mmol, 9.75 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1(OC1)C)C | C11H14O4S
reactant | tert-butyl piperazin-1-yl-carbamate | 33.5 mmol, 6.75 g | N1(CCNCC1)NC(OC(C)(C)C)=O | C9H19N3O2
reactant | triethylamine | 50.3 mmol, 7 ml | C(C)N(CC)CC | C6H15N
reactant | potassium iodide | 33.5 mmol, 6.68 g | [I-].[K+]
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl[4-(2-methyl-2-oxiranylmethyl)piperazin-1-yl]carbamate | 4.66 g, yield 51% | C(C)(C)(C)OC(NN1CCN(CC1)CC1(OC1)C)=O | C13H25N3O3
